US05216020
Step C: Preparation of 2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide
2,3-Dihydrothieno[2,3-b]thiophene-1,1-dioxide (35.5 g, 0.204 mol) in THF (300 mL) was cooled to -78° C. under a nitrogen atmosphere. A solution of n-butyllithium in hexane (82.7 mL, 2.47M) was added dropwise over a period of 1 hour. The dark red solution was stirred for an additional 15 minutes and poured over dry ice (2 L) in ether (2 L). The reaction was allowed to warm to room temperature and the product partitioned between aqueous sodium hydroxide and ether. The aqueous phase was extracted twice with ethyl acetate, then rendered acidic (pH 1) with concentrated HCl. The resulting yellow suspension was extracted into ethyl acetate. The ethyl acetate solution was washed with saturated brine and dried over magnesium sulfate, filtered, and the solvent removed in vacuo to provide an 8:2 mixture of carboxylic acids. The solid was triturated with 5% acetonitrile in ether and collected by filtration. This was repeated a total of four times to remove most of the undesired minor product. The filtrates from the washings were combined to give approximately 1:1 mixture of carboxylic acids (17.6 g, 39%), which could be separated by column chromatography on silica gel with 10% acetic acid in chloroform. The filtered product was a light tan powder which was dried in a vacuum oven at 20° C. under house vacuum overnight to provide the title compound (21.3 g, 47%) in >95% purity.

reactant | 2,3-Dihydrothieno[2,3-b]thiophene-1,1-dioxide | 0.204 mol, 35.5 g | S1(CCC2=C1SC=C2)(=O)=O | C6H6O2S2
reactant | n-butyllithium | C(CCC)[Li]
reactant | dry ice | 2 L | C(=O)=O | CO2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | 2.47M, 82.7 mL | CCCCCC | C6H14
solvent | ether | 2 L | CCOCC | C4H10O
product | 2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide | 21.3 g, 47% | S1(C(CC2=C1SC=C2)C(=O)O)(=O)=O | C7H6O4S2
